US08957069B2
5-bromo-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one
Bromine (12.3 mL, 241 mmol) was added dropwise to a solution of acetic acid (400 mL) containing 2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one (40.9 g, 200 mmol) synthesized in Reference Example 35, and then it was stirred at room temperature. After stirring for 1 hour, the reaction solution was poured into 5% aqueous solution of sodium sulfite. The generated crystals were collected by filtration, and recrystallized from methanol to give 47.4 g of the title compound (yield: 84%).

reactant | Bromine | 241 mmol, 12.3 mL | BrBr | Br2
reactant | 2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one | 200 mmol, 40.9 g | CC1(OC2=C(C1=O)C(=CC(=C2C)C)C)C | C13H16O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2,2,4,6,7-pentamethyl-1-benzofuran-3(2H)-one | 47.4 g, yield: 84% | BrC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C13H15BrO2
